US07834021B2
4-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-N-methylbenzamide.
4-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)benzoic acid (560 mg, 2 mmol), methylamine (1.2 mL, 2.0 M THF solution), BOP reagent (1.07 g, 2.4 mmol) and 0.8 mL (6 mmol) of triethylamine were dissolved in 15 mL of DMF at room temperature. The reaction mixture was stirred at r.t. overnight. Direct chromatography on silica gel (flash chromatography grade) with 50% ethyl acetate-hexane gave 410 mg (70%) of the desired product: 1H NMR (CDCl3) δ 7.76 (2 H, d, J=11.2 Hz), 7.56 (2 H, d, J=10.9 Hz), 5.01 (H, s), 3.90 (4 H, s), 3.37 (3 H, s), 2.80-2.75 (2 H, m), 2.60-2.45 (2 H, m), 1.95-1.90 (2 H, m), 1.63-1.52 (2 H, m); MS: 292 (M+1)+.

reactant | 4-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)benzoic acid | 2 mmol, 560 mg | OC1(CCC2(OCCO2)CC1)C1=CC=C(C(=O)O)C=C1 | C15H18O5
reactant | methylamine | 2.0 M, 1.2 mL | CN | CH5N
reactant | BOP reagent | 2.4 mmol, 1.07 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 6 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4-(8-Hydroxy-1,4-dioxaspiro[4.5]dec-8-yl)-N-methylbenzamide | 410 mg, 70% | OC1(CCC2(OCCO2)CC1)C1=CC=C(C(=O)NC)C=C1 | C16H21NO4
